datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=C[C:63]2=[C:64](C=C1)[C:74]1=[C:73](C=CC=C1)[N:12]2[CH:11]=[CH2:10].Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20](=[O:21])[C:41](Cl)=[C:42]1Cl>>Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20]([CH2:10][CH:11]=[N+:12]2[C:63]3=[C:64](C=CC=C3)[C:74]3=[C:73]2C=CC=C3)([O-:21])[C:41](Cl)=[C:42]1Cl 10,11=10,20;12=11,12;20,21=21"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.OCC[NH:10]CCO>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([NH+:10](CCO)CCO)[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"COC1=C([C:10]#[C:11][N:12](CC2=CC=CC=C2)[S:63](C2=CC=C(C)C=C2)(=[O:64])=[O:74])C=CC=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>COC1=C([C:10](=[C:11]=[N+:12](CC2=CC=CC=C2)[S:63](C2=CC=C(C)C=C2)(=[O:64])=[O:74])[CH:20]([C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)C=CC=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1.[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])(C#[O+])[H:10]>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([H:10])[C-:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1.[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21"
"C1=CC=C([P:11](C2=CC=CC=C2)(C2=CC=CC=C2)=[CH:10][CH:61]=[O:62])C=C1.O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([P+:11](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[CH:61]=[O:62])[CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[CH:36]=[CH:35]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N:63]2[C:62]([C:81]([C-:10](C)C3=CC=CC=C3)=[O:82])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1.F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1=[O:21]>>CC1=CC(C)=C([N:63]2[C:62]([C:81]([C:10](C)(C3=CC=CC=C3)[C:20]3([O-:21])[C:31](F)=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41]3F)=[O:82])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1 10=20;20,21=21"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCC1)=[O:62]>>CC[O:72][C:61]([C:10]1([CH:20]([N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)CCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21"
"C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32].C[SiH:11]([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>C[N:43]1[C:22]([O-:23])=[CH:21][CH:20]([H:10])[C:31]1=[O:32].C[SiH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:20]1=[CH:21][C:22](=[O:23])CCC1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([N+:76](=[O:77])[O-:97])[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>C[C:20]1([H:10])CCC[C:22]([O-:23])=[CH:21]1.C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([N+:76](=[O:77])[O-:97])[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:63]1=[C:62]([CH:11]=[CH2:10])[C:73](C)=[CH:74][C:65](C)=[CH:64]1.C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([CH2:10][CH+:11][C:62]2=[C:63](C)[CH:64]=[C:65](C)[CH:74]=[C:73]2C)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[O:72])C=C1.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([N+:11](=[O:12])[O-:62])[C:71](C2=CC=CC=C2)=[O:72])[C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC12C3(C)C4(C)C5(C)C1(C)[Mo-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10].C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>CC12C3(C)C4(C)C5(C)C1(C)[Mo-2:11]2345(C#[O+])(C#[O+])C#[O+].C[C:21]1=[C:22]([O-:23])CC[CH:20]1[H:10] 10,11=10,20;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCO1.C1C[CH:10]=[CH:11][CH:62]=[CH:63]C1>>C1C[CH:10]([C:20]2([O-:21])CCOCC2)[CH+:11][CH:62]=[CH:63]C1 10,11=10,20;20,21=21"
"CC[O:82][C:71]([C-:10]1CCC[C:62]1=[O:61])=[O:72].Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>CC[O:82][C:71]([C:10]1([CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)CCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21"
